Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
naproxen
 
Attending: ___.
 
Chief Complaint:
pain and erythema of the right hand after dog bite c/f flexor 
tenosynovitis 
 
Major Surgical or Invasive Procedure:
___ Irrigation and Debridement of right ring finger flexor 
tendon sheath (Dr. ___

 
History of Present Illness:
___ is a ___ year old RHD female graduate student who
was at the ___ with her Chihuahua (vaccinations
including rabies UTD) yesterday around noon when she was bitten
in the right hand in the fourth webspace. She had some minor 
pain
and swelling throughout the day, but when she awoke she saw that
there was redness on both sides of her hand with increased
swelling. She has not had fevers or drainage. She presented to 
an
urgent care facility who recommended she be seen in the ED. 
Here,
she had right hand x-rays that were normal, and her vital signs
have been within normal limits. Her WBC was 9. We were consulted
out of concern for flexor tenosynovitis. She received Unasyn and
tetanus booster in the ED.

At the time of my interview, she reports ___ pain. She also
notes that she ate some sushi about one hour ago. 
 
Past Medical History:
GRAVES' DISEASE                                                 
MIGRAINE HEADACHES                                              
DEPRESSION    
 
Social History:
___
Family History:
Father with factor V Leiden (she has tested negative.            


 
Physical Exam:
Gen: NAD, A&Ox3, lying on bed.
HEENT: Normocephalic. 
CV: RRR
R: Breathing comfortably on room air. No wheezing.
Ext: WWP. RUE in splint, skyhook elevation. Fingertips warm, 
well
perfused with cap refill <2 seconds. Diminished sensation to
light touch over right ring finger.
 
Pertinent Results:
___ 02:40PM BLOOD WBC-9.2 RBC-4.36 Hgb-13.3 Hct-40.0 MCV-92 
MCH-30.5 MCHC-33.3 RDW-12.6 RDWSD-42.3 Plt ___
___ 02:40PM BLOOD Neuts-67.9 ___ Monos-5.3 Eos-1.8 
Baso-0.2 Im ___ AbsNeut-6.24* AbsLymp-2.25 AbsMono-0.49 
AbsEos-0.17 AbsBaso-0.02
___ 02:40PM BLOOD Plt ___
___ 02:40PM BLOOD ___ PTT-26.2 ___
___ 02:40PM BLOOD Glucose-97 UreaN-12 Creat-0.7 Na-139 
K-3.9 Cl-99 HCO3-27 AnGap-13
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have examination concerning for flexor tenosynovits of the 
right ring finger and was admitted to the hand surgery service. 
The patient was taken to the operating room on ___ for 
Irrigation and Debridement of the right ring finger flexor 
tendon sheath, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
coffee cup weight bearing to the R hand, and will be discharged 
on Augmenting for continued infectious treatment/prophylaxis. 
The patient will follow up with Dr. ___ routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
Medications - Prescription
verapamil 120 mg po qday
levothyroxine 175 mcg po qday
sertraline 100 mg po qday
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth 5 times a day Disp 
#*60 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice daily Disp #*14 Tablet Refills:*0 
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl [Dulcolax (bisacodyl)] 5 mg 1 tablet(s) by mouth 
twice daily Disp #*50 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*50 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*28 
Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
flexor tenosynovitis of the right ring finger

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER HAND/UPPER EXTREMITY SURGERY:

- You were in the hospital for upper extremity surgery. It is 
normal to feel tired or "washed out" after surgery, and this 
feeling should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- coffee cup weight bearing to the right hand

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
- you will be discharged on the antibiotic AUGMENTIN, please be 
sure to complete this course of antibiotics as prescribed

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns
Physical Therapy:
coffee cup weight bearing to the right hand
Treatments Frequency:
 
 
Followup Instructions:
___